US06632810B2
Synthesis of N,N′-bis(5,6,7-trimethoxyindole-2-carbonyl)homopiperazine:
5,6,7-Trimethoxyindole-2-carboxylic acid (300 mg) and homopiperazine (60 mg) were reacted in the same manner as in Preparation Example 37 to obtain the title compound.

reactant | 5,6,7-Trimethoxyindole-2-carboxylic acid | 300 mg | COC=1C=C2C=C(NC2=C(C1OC)OC)C(=O)O | C12H13NO5
reactant | homopiperazine | 60 mg | N1CCNCCC1 | C5H12N2
product | N,N′-bis(5,6,7-trimethoxyindole-2-carbonyl)homopiperazine | COC=1C=C2C=C(NC2=C(C1OC)OC)C(=O)N1CCN(CCC1)C(=O)C=1NC2=C(C(=C(C=C2C1)OC)OC)OC | C29H34N4O8
